US06310056B1
To a suspension of 69 mg of 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate in 2 ml of acetone was added 281 mg of iodoacetamide, and the mixture was stirred at room temperature for 25 hours. The reaction mixture was concentrated under reduced pressure to dryness. The residue was triturated with 3 ml of ethyl acetate, and the insolubles were collected by filtration to give 4-nitrobenzyl (5R,6S)-2-(6-carbamoylmethylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate iodide.

reactant | 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 69 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=CN3C(S2)=CN=C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C21H18N4O6S
reactant | iodoacetamide | 281 mg | ICC(=O)N | C2H4INO
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 4-nitrobenzyl (5R,6S)-2-(6-carbamoylmethylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate iodide | [I-].C(N)(=O)CN1C=[N+]2C(SC(=C2)C=2C[C@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]3[C@@H](C)O)=O)=C1 | InChI=1S/C23H21N5O7S.HI/c1-12(29)20-16-6-15(17-7-26-11-25(8-18(24)30)9-19(26)36-17)21(27(16)22(20)31)23(32)35-10-13-2-4-14(5-3-13)28(33)34;/h2-5,7,9,11-12,16,20,29H,6,8,10H2,1H3,(H-,24,30);1H/t12-,16-,20-;/m1./s1
